US04489003
A mixture of 10 g (24 mmol)of tert.butyl (S)-8-bromo-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate, 30 g (300 mmol) of cyclohexanol and 1.80 g (8 mmol) of tetraethyl orthotitanate is stirred at 125° overnight, the solution obtained is evaporated to dryness, the residue is taken up in chloroform and stirred for 0.5 hour with 40 ml of a saturated potassium fluoride solution. The resulting emulsion is filtered through siliceous earth, the organic phase is separated, washed with water, dried over magnesium sulphate and evaporated. By recrystallization of the residue from ethyl acetate there is obtained cyclohexyl (S)-8-bromo-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]-pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate of melting point 167°-168°.

reactant | tert.butyl (S)-8-bromo-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | 24 mmol, 10 g | BrC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OC(C)(C)C)CCC1)=O | C19H20BrN3O3
reactant | cyclohexanol | 300 mmol, 30 g | C1(CCCCC1)O | C6H12O
catalyst | tetraethyl orthotitanate | 8 mmol, 1.80 g | CCO.CCO.CCO.CCO.[Ti]
product | cyclohexyl (S)-8-bromo-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]-pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | BrC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OC3CCCCC3)CCC1)=O | C21H22BrN3O3
